US07307168B2
A solution of 1 g (0.0023 mole) of 3-[2-[4-[(2,4-difluorophenyl)-(hydroxyimino)-methyl]-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one and 1 g of potassium hydroxide in 10 ml of water is heated to boiling for an hour. The reaction mixture is cooled to room temperature and extracted twice with 10 ml of dichloromethane each. The organic phase is evaporated. Thus 0.70 g of 3-{2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl}-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimid-in-4-one are obtained, yield 73.5%. According to HPLC analysis the purity of the product is 96.4%.

reactant | 3-[2-[4-[(2,4-difluorophenyl)-(hydroxyimino)-methyl]-1-piperidinyl]ethyl]-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimidin-4-one | 0.0023 mole, 1 g | FC1=C(C=CC(=C1)F)C(C1CCN(CC1)CCC1=C(N=C2N(C1=O)CCCC2)C)=NO | C23H28F2N4O2
reactant | potassium hydroxide | 1 g | [OH-].[K+]
solvent | water | 10 ml | O | H2O
product | 3-{2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl}-6,7,8,9-tetrahydro-2-methyl-4H-pyrido[1,2-a]pyrimid-in-4-one | 0.70 g, yield 73.5% | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCC2=C(N=C3N(C2=O)CCCC3)C)C=C1 | C23H27FN4O2
